### PR TITLE
[Merged by Bors] - feat(Data/Set/Card): a few missing lemmas

### PR DESCRIPTION
**Pull request by apnelson1**
We add two simp lemmas where the RHS is `Set.encard s` and the LHS is something uglier.

We also add two lemmas relating `Set.Subsingleton`  and `Set.Nontrivial` with `Set.encard`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Card.lean [hunk 1]
```diff
@@ -76,6 +76,11 @@ theorem encard_eq_coe_toFinset_card (s : Set α) [Fintype s] : encard s = s.toFi
   have h := toFinite s
   rw [h.encard_eq_coe_toFinset_card, toFinite_toFinset]
 
+@[simp] theorem toENat_cardinalMk (s : Set α) : (Cardinal.mk s).toENat = s.encard := rfl
+
+@[simp] theorem cast_fintype_card (s : Set α) [Fintype s] : (Fintype.card s : ℕ∞) = s.encard := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Card.lean:81]: Not coe rather than cast? In any case `fintypeCard`

File: Mathlib/Algebra/Group/Pointwise/Set/Card.lean [hunk 2]
```diff
@@ -64,7 +64,8 @@ attribute [deprecated natCard_inv (since := "2024-09-30")] card_inv
 attribute [deprecated natCard_neg (since := "2024-09-30")] card_neg
 
 @[to_additive (attr := simp)]
-lemma encard_inv (s : Set G) : s⁻¹.encard = s.encard := by simp [encard, ENat.card]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Pointwise/Set/Card.lean:67]: I would guess that replacing `encard` with  `← toENat_cardinalMk` is sufficient to avoid changing the proof.

File: Mathlib/Data/Set/Card.lean (hunk 1 above)
Comment (eric-wieser) [inline Mathlib/Data/Set/Card.lean:81]:
```suggestion
@[simp] theorem cast_fintypeCard (s : Set α) [Fintype s] : (Fintype.card s : ℕ∞) = s.encard := by
```

File: Mathlib/Data/Set/Card.lean [hunk 3]
```diff
@@ -302,6 +307,14 @@ theorem encard_le_one_iff : s.encard ≤ 1 ↔ ∀ a b, a ∈ s → b ∈ s →
   obtain ⟨x, rfl⟩ := h ⟨_, has⟩
   rw [(has : a = x), (hbs : b = x)]
 
+theorem encard_le_one_iff_subsingleton : s.encard ≤ 1 ↔ s.Subsingleton := by
+  rw [encard_le_one_iff, Set.Subsingleton]
+  tauto
+
+theorem two_le_encard_iff_nontrivial : 2 ≤ s.encard ↔ s.Nontrivial := by
+  rw [← not_iff_not, ← not_lt, not_not, Set.not_nontrivial_iff, ← encard_le_one_iff_subsingleton,
+    show (2 : ℕ∞) = 1 + 1 from rfl, ENat.lt_add_one_iff (by simp)]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Card.lean:316]: You should be able to use `one_add_one_eq_two`

File: Mathlib/Data/Set/Card.lean [hunk 4]
```diff
@@ -302,6 +307,14 @@ theorem encard_le_one_iff : s.encard ≤ 1 ↔ ∀ a b, a ∈ s → b ∈ s →
   obtain ⟨x, rfl⟩ := h ⟨_, has⟩
   rw [(has : a = x), (hbs : b = x)]
 
+theorem encard_le_one_iff_subsingleton : s.encard ≤ 1 ↔ s.Subsingleton := by
+  rw [encard_le_one_iff, Set.Subsingleton]
+  tauto
+
+theorem two_le_encard_iff_nontrivial : 2 ≤ s.encard ↔ s.Nontrivial := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Card.lean:314]: Should this use `1 <` for consistency with `one_lt_encard_iff` below?

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

File: Mathlib/Data/Set/Card.lean [hunk 5]
```diff
@@ -76,6 +76,11 @@ theorem encard_eq_coe_toFinset_card (s : Set α) [Fintype s] : encard s = s.toFi
   have h := toFinite s
   rw [h.encard_eq_coe_toFinset_card, toFinite_toFinset]
 
+@[simp] theorem toENat_cardinalMk (s : Set α) : (Cardinal.mk s).toENat = s.encard := rfl
+
+@[simp] theorem coe_fintypeCard (s : Set α) [Fintype s] : (Fintype.card s : ℕ∞) = s.encard := by
```
Comment (madvorak) [inline Mathlib/Data/Set/Card.lean:81]: Is there a parenthesis because you wanted to write `some (Fintype.card s : ℕ∞)` and then you dropped it?

**Review by madvorak — APPROVED** [review]

File: Mathlib/Data/Set/Card.lean (hunk 5 above)
Comment (apnelson1) [reply Mathlib/Data/Set/Card.lean:81]: No - but I've removed the parentheses :)

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
